data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2372,2634,[CH3:22][CH-:23][N+:24]([CH3:25])=[C:26]([C:27](=[O:28])[NH:29][CH3:30])[C:31](=[O:32])[O:33][CH3:34].[F:1][C:2](=[C:3]([c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[F:1][C:2]1([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[C:26]([C:27](=[O:28])[NH:29][CH3:30])([C:31](=[O:32])[O:33][CH3:34])[N:24]([CH3:25])[CH:23]1[CH3:22],water,298.15,35.55777076967163,4.8957402220628605
2582,2863,[CH3:29][C-:30]([N+:31]#[N:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH2:26][CH2:27][CH2:28]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[CH2:25][CH2:26][CH2:27][CH2:28]1)[C:30]([CH3:29])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[N:31]=[N:32]2,water,298.15,18.933601851423045,-31.776652451774986
4264,4878,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([CH3:13])=[NH+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([CH3:13])[NH:14][C:15]2([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,29.87304068926344,-1.025696661486885
5153,5851,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([CH3:22])[C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[O:20][C:21]2([CH3:22])[C:23]#[N:24],water,298.15,10.258553145646184,-29.6763591644108
1492,1647,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12]#[N:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[N:24]=[N+:25]([CH3:26])[O-:27]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12]#[N:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[O:27][N:25]([CH3:26])[N:24]2[C:22]([NH:21][CH3:20])=[O:23],water,298.15,29.37413292828685,-16.128750451792474
3984,4559,[CH3:9][C-:10]([O+:11]=[C:12]([C:13]#[N:14])[C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:10]([CH3:9])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:11][C:12]1([C:13]#[N:14])[C:15]#[N:16],water,298.15,18.044233872079587,-31.908857997896742
5056,5744,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[CH-:19][O+:20]=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,3.655273365830192,-29.61057099384991
5013,5701,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH:19]=[N+:20]([CH3:21])[C-:22]([C:23]#[N:24])[C:25]([CH3:26])=[O:27]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:22]([C:23]#[N:24])([C:25]([CH3:26])=[O:27])[N:20]([CH3:21])[CH:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,29.73317723655003,-3.9029032872224616
1021,1114,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[N:18]=[C:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,28.32423485741237,-25.124082560176
2603,2885,[CH3:19][NH:20][C:21](=[O:22])[CH-:23][NH+:24]=[C:25]([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:23]([C:21]([NH:20][CH3:19])=[O:22])[NH:24][C:25]2([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,18.351553249112577,-26.74242518585401
